US08802713B2
1.18 g of 5-amino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(2,2,3,3,4,4,4-heptafluorobutoxy)pyrazole was dissolved in 15 mL of formic acid, and 8mL of acetic anhydride was added under cooling with ice, followed by stirring at room temperature for 12 hours. Then, extraction with ethyl acetate was carried out, the organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:2) to obtain 0.92 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-formylamino-3-(2,2,3,3,4,4,4-heptafluorobutoxy)pyrazole.

reactant | 5-amino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(2,2,3,3,4,4,4-heptafluorobutoxy)pyrazole | 1.18 g | NC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OCC(C(C(F)(F)F)(F)F)(F)F | C16H12F11N3OS
reactant | acetic anhydride | 8mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 15 mL | C(=O)O | CH2O2
product | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-formylamino-3-(2,2,3,3,4,4,4-heptafluorobutoxy)pyrazole | 0.92 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1NC=O)OCC(C(C(F)(F)F)(F)F)(F)F | C17H12F11N3O2S
